Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
grass pollen
 
Attending: ___.
 
Chief Complaint:
"worsening depression, crying every waking
moment"
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ year old man with past psychiatric history of
depression with concerns for possible psychotic features vs
psychosis spectrum who was brought into the ED by his outpatient
therapist on a ___ for expressing SI with plan to hang
himself in the setting of discontinuation of his medications. 

HISTORY OF PRESENT ILLNESS:
Per Dr. ___ ___ ED Initial Psychiatry Consult 
note:

"The ___ reported that over the last month he has been
experiencing a steady worsening of his mood with an acute
acceleration of the worsening over the last week which 
ultimately
culminated in 1 week's worth of SI with thoughts and research
about how to hang oneself. He says that he feels an "internal
pain" that he relates to his feeling constantly sad and 
hopeless.
He reports that this worsening mood is likely related to his
having to return to ___ on the ___. He also reports that
about 1 month ago his self-discontinued his medications because
"they were fucking with my neurochemistry." When asked if he
found the medications helpful in any way, he said that he thinks
the Prozac "helped make me flat." 

In addition to his depressed mood, he reports insomnia, 
decreased
appetite, fatigue, decreased self care, and SI with plan to hang
himself by methods he researched online. When asked what he
thinks has lead to this line of thinking, he reports that "[he]
can't cope with the structure of life." When asked to clarify, 
he
says that he doesn't know why "you're expected to work a job you
hate until you die." He reports that he has kept from acting on
his plan because he's afraid of death. He also reported a
significant trauma history suffering abuse from his mother which
he re-experiences in the form of flashbacks and nightmares about
1x monthly. He denies paranoia, but does report intermittent AH
of "hearing people call my voice" which occurs a few times
monthly. He denies AVH at the present encounter. 

He reports that he has been spending much of his time working on
a website which would be an online store for ___ and ___. He
says that he has been staying up all night working on it to try
to get sales in before the holidays. He says he has worked hard
at this to get a source of income which would allow him to not
have to return to ___ to live with his parents. He 
reports
that he gets the crafts from a ___ supplier. 

He reports that if it was up to him, he would pursue being an 
___, but his parents have discouraged him from pursuing this
path for fear that it will not provide him with a job in the
future."

In the ED, ___ remained under good behavioral control and 
did
not require any restraints, or receive any scheduled or PRN
medication.

Collateral obtained in the ED per Dr ___ Dr.
___  ___:
"Spoke to ___'s outpatient psychiatrist, Dr. ___ (___).

Came to ___ at ___ in ___. Significant family history
of psychosis. Brother has schizophrenia. Uncle has paranoid
delusions. Parents are in ___. Has sister and ___ in
___.

Pt has 2 suicide attempts in college with subsequent psychiatric
hospitalizations. (1) Suffocated self with plastic bag, (2)
wrapped something around neck to hang self.

On presentation to ___, pt was feeling really depressed and
having thought disorganization + odd thought content. Had been
having increasing difficulty with ADLS-- not going to work, not
making it on time to ___, socially isolated, no friends or
hobbies. Was always late for appts despite getting called right
beforehand by therapist.

Started on risperidone 0.5mg --> 1.5mg.

Since initial presentation, has talked about passive SI but
eventually started talking about stabbing self with knife.
Started on Prozac 10mg in ___ and mood/suicidality seems 
to
improve. 

Risperidone 1.5 and Prozac 10mg seemed to really help him. 
Looked
a bit more organized-- coming to more appts on time. He has been
talking about wanting to go back to ___ to parents, though, and
sister is concerned he ___ have enough access to mental
health services there. So team decided to slowly taper him off
his meds while he was at ___ to see how he did, rather than do
it all of a sudden as he was leaving. Tapered off as of 2 weeks
ago.

Over last 2 weeks without meds, has looked significantly worse.
Saw therapist today. Active SI. Dr. ___ he needs to come
in-- does well in structured environment and when on meds.

Collateral from primary therapist ___ D
___.

___ has been seen by Dr. ___ ___ at 
___ at ___, which is a clinic specifically for patients
psychosis spectrum symptoms and concerns. Dr. ___ has been
seeing ___ for depression, PTSD, and concerns for psychosis.
She reports that he is here in ___ from ___ after 
going
on a leave of absence from school, and has been looked after by
his sister who lives here. They had started the ___ on
Risperidone and then added Prozac, but ___ self-discontinued
both medications, at the urging of his sister, about 1 month 
ago.
Since discontinuing that medication, he has expressed a 
worsening
of his mood and has demonstrated worsening disorganization. When
___ was seen by Dr. ___ on day of presentation, the
___ was expressing SI with plan to hang himself,
disorganization, preoccupation with existential concerns
regarding society and economics, reported not eating, sleeping,
or taking care of himself (especially in last week). She reports
that he spends most of his time working on a website, but that
when he tries to explain the process he becomes quite
disorganized. The ___ left a distressing voicemail with the
therapist over the weekend, which prompted his being seen by her
on the day of presentation."

On interview today, ___ states that he came to the emergency
room for worsening depression and "crying every waking moment". 
He states that he can cope with life and he needs someone to 
talk
to.  He reports that his parents do not believe depression is
real, and so he does not have anyone that he can speak with.  He
states that he was initially living room nearby his sister,
however he moved to ___ in ___ or
___ of this year.  He states that he has continued to
receive care at the ___ and with providers in the 
area,
however he has found getting to and from appointments difficult. 

At this point, the ___ reports depressed mood with feelings
of helplessness and worthlessness,  Inability to take care of 
his
ADLs, and extremely low mood.  At this moment he also endorses
suicidal ideation, however denies that he has a plan which is
contradictory to what he reported in the emergency room.  He
denies any thoughts of homicidal ideation.  He denies any 
current
or past auditory or visual hallucinations to this interviewer.

He states that approximately 2 weeks ago he discontinued his
risperidone, and approximately 1 week prior to that, had
discontinued his Prozac of 10 mg.  He states that while on these
medications he did not notice much of a difference.  ___
reports that he is amenable to starting medications while on the
inpatient unit. 
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
[Extracted from ___s ___ ED Initial Psychiatry
Consult note, with ___, and updated as appropriate.]
Hospitalizations: 2 prior in ___
Current treaters and treatment: Dr. ___ and Dr. ___ 
___ and ECT trials: Prozac and Risperidone as above 
Self-injury/suicide attempts: 2 prior SAs-when asked about the
details of these events, the ___ reports that his
recollection of these events is "fuzzy".  He reports that these
happened in the last couple of years.  Per collateral one via
asphyxiation other via hanging 
Harm to others: denies
Access to weapons: denies
-Psychiatrist:Dr. ___ (PGY3).
-___ D (___.)
-Trauma: ___ reports physical and verbal abuse from his
mother when growing up

PAST MEDICAL HISTORY:
PCP: ___ states "I do not know"
Denies history of head trauma, seizure.
 
Social History:
SOCIAL HISTORY:
[Extracted from ___ ___ ED Initial Psychiatry
Consult note, with ___, and updated as appropriate.]
-Born/Raised: ___ Area in ___ 
-Relationship status/Children: single
-Primary Supports: sister, denies having any close friends here
or in ___ 
-Housing: lives alone in apartment in ___ 
on
4 month lease expiring
at end of ___ 
-Education: ___ years of undergraduate education currently 
pursuing
___ science degree at ___ at present time,
but to return in ___. 
-Employment/Income: works as a ___
-Spiritual: denies but says "I wish I was"
-Military History: ___
SUBSTANCE USE HISTORY:
-Caffeine: denies
-Tobacco: denies
-Alcohol: denies
-Marijuana: denies
-Heroin: denies
-Opiates: denies
-Benzos: denies
-Cocaine: denies
-Amphetamines/speed: denies
-LSD/PCP: denies
-___: Denies

FORENSIC HISTORY:
-Arrests: Denies
-Convictions and jail terms: Denies
-Current status (pending charges, probation, parole): n/a

 
Family History:
FAMILY PSYCHIATRIC HISTORY:
Per ___: reports that his sister has been hospitalized for
PTSD.
Per Dr. ___: brother has schizophrenia and uncle has
paranoid delusions
 
Physical Exam:
VITAL SIGNS:
T98.3 BP:116/75 HR:87 RR:18 SpO2:96 
Gen: NAD, normal posture, thin, appears stated age; 
disheveled/unkempt; malodorous; unshaven
HEENT: Sclera anicteric. Oropharynx benign. Mucous membranes
moist. 
Neck: Supple. No LAD. No masses or goiter. Trachea midline.
CV: Regular rate, positive S1, S2, no gross 
murmurs/rubs/gallops. 
Chest: Clear to ausculation bilaterally
Abdomen: Soft, non-tender, non-distended. Positive BS.
Ext: Warm and well-perfused, no edema. 
Skin: abrasions on knuckles bilaterally, no drainage or current 
bleeding

Neurological exam: 
Cranial nerves ___ symmetrically intact. 
Motor:  Normal bulk and tone, no tremor, or bradykinesia. Full 
strength in bilateral deltoids, elbow flexion and extension, 
finger flexion, hip flexors, knee flexion and extension, ankle 
dorsi- and plantar flexion.
Coordination: Heel-to-shin, and finger-to-nose-finger movements 
intact. No truncal ataxia.
Reflex:  Normal and symmetric (2+) in bilaterally biceps, 
triceps, brachioradialis, patella and ankles. Toes downgoing 
bilaterally. 
Sensory: grossly intact
Gait:  Posture, stride, and arm-swing normal. 

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYB with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "the grass is always greener on the
other side" as "look on the bright side"
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: Age appearing Asian male, poorly groomed,
disheveled, poor hygiene.  ___ wearing hospital gown, 
sitting
in interview chair. 
-Behavior: Sitting up in chair, Eyes downcast with slow
movements, occasional eye contact for short duration.  ___ 
is
making groaning and whimpering noises periodically throughout 
the
interview and when pushed for more emotionally veiling 
questions.
Seems internally distressed during those times.  Significant
psychomotor retardation
-Attitude: Cooperative.
-Mood: "Depressed "
-Affect: Flat affect, mood-congruent, odd vocal outburst.
-Speech: ___ with significant latency and initiation of
speech, speaking in short sentences, however responding
appropriately to questions.
-Thought process: Generally linear and coherent, with occasional
thought blocking.  No loose associations
-Thought Content:
---Safety: Reports current passive suicidal ideation.  Denies
violent ideation
---Delusions: No evidence of paranoia, or delusional thinking.
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, ___ frequently takes a while
to respond to questions, occasionally whimpering or moaning
during the interview at times seemingly unprovoked, possibly
attending to internal stimuli
-Insight: poor
-Judgment: poor

Discharge Mental Status: 
Mental Status Exam:
Appearance: Better grooming, takes showers when encourage 
facial expression: Neutral 
build: WNL
Behavior: engaging, cooperative 
Eye contact: Intermittent
psychomotor: No abnormal involuntary movement, gait - normal,
Speech: Normal rate, volume and tone 
Mood/affect: "I feel OK", improved, brighter, mild 
irritability at times
thought process/content: linear concrete, denies SI/HI, denies
AH/VH/delusions
Intellectual Functioning: Better concentration
Oriented: x4
Memory: Grossly intact
insight: fair
judgment: fair

 
Pertinent Results:
___ 05:40PM URINE  HOURS-RANDOM
___ 05:40PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 05:40PM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 05:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 05:40PM URINE  RBC-2 WBC-4 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 05:40PM URINE  MUCOUS-MANY*
___ 02:02PM   GLUCOSE-91 UREA N-10 CREAT-0.9 SODIUM-139 
POTASSIUM-3.9 CHLORIDE-99 TOTAL CO2-27 ANION GAP-13
___ 02:02PM   estGFR-Using this
___ 02:02PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 02:02PM   WBC-5.8 RBC-4.76 HGB-14.9 HCT-43.8 MCV-92 
MCH-31.3 MCHC-34.0 RDW-12.1 RDWSD-41.1
___ 02:02PM   NEUTS-31.4* LYMPHS-55.8* MONOS-8.3 EOS-3.6 
BASOS-0.7 IM ___ AbsNeut-1.81 AbsLymp-3.22 AbsMono-0.48 
AbsEos-0.21 AbsBaso-0.04
___ 02:02PM   PLT COUNT-295
___ 06:20AM BLOOD ALT-21 AST-19 AlkPhos-63 TotBili-0.6
___ 06:20AM BLOOD %HbA1c-5.4 eAG-108
___ 06:20AM BLOOD Triglyc-50 HDL-88 CHOL/HD-2.2 LDLcalc-99
___ 06:20AM BLOOD TSH-3.___. LEGAL & SAFETY:

___ refused to sign a conditional voluntary agreement and 
was admitted on a ___, which expired on ___.  At 
that time, Mr. ___ signed a conditional voluntary form and a 
three day notice, which expired on ___. He was also placed 
on 5 minute checks status on admission and was advanced to 15 
minute checks after two days and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) ___ presented to the inpatient psychiatry unit on a 
section 12b due to concern for ability to care for self, 
suicidal ideation with plan to hang himself and depressed mood. 
He is a client at the ___ at ___. On initial 
interview, he notably had marked thought blocking, was tearful 
and distressed regarding his future career prospects and 
endorsing marked 'internal pain'. He denied suicidal ideation 
while on the unit, but spent much of his time in his room 
sleeping or on the computer working on his online store, 
requiring prompting to shower. He was placed on electronics 
restriction due to his obsessional working on his online store 
to the detriment of attending to his ADLs. He was started on 
Prozac 10mg on ___, which was increased to 20mg on 
___. He tolerated the medication well without side effects 
and noted having improved mood after initiation of the 
medication. Notably, his appetite and sleep had improved and he 
was engaging more in individual therapy and group therapy and 
attending to his ADLs with prompting. He was also started on 
Risperdal 1mg twice daily for disorganization and thought 
blocking as well as Cogentin 1mg at bedtime for prevention of 
extrapyramidal symptoms. He tolerated the Risperdal well, with 
improvement in his thought blocking. His electronics access was 
gradually increased to 1 hour per nursing shift on ___ and 
then to 2 hours per nursing shift on ___. Given observed 
increased daytime sedation, his Risperdal was decreased to 1mg 
at bedtime and his Cogentin was decreased to 0.5mg at bedtime on 
___ and stopped on ___. In terms of psychiatric 
aftercare planning, multiple family meetings were held with 
___ brother in law to discuss future plans, as Mr. ___ did 
not have the finances to continue living on his own in the 
___ area. Provided psycho-education to the family about the 
importance of psychiatric follow up, importance of taking 
medications and a supportive environment. However, ___ 
family was unable to continue to provide support for him in the 
___ area and therefore ___ will be discharged to 
___ to live with his mother and father with plans to 
restart his college education at ___. However, given 
family's decreased belief in the need for psychotropic 
medication and a history of trauma from his mother as a child, 
Mr. ___ might be at increased risk for discontinuation of his 
medications and as a result worsening of his mood and 
potentially recurrence of his suicidal ideation upon his return 
to ___. These risks were discussed at length with the 
___ and his family. 

3. SUBSTANCE USE DISORDERS:
Mr. ___ does not have any substance use disorders, and therefore 
did not require any counseling or treatment in this regard.

4. MEDICAL
Mr. ___ was medically cleared in the ED and no acute  medical 
issues prevented admission to ___ 4.  Additionally, Mr. ___ has 
no chronic medical issues requiring attention. Of note, he had a 
recent bicycle accident, resulting in scrapes on his knuckles. 
Denied any headaches or visual changes, so head imaging was 
deferred. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Mr. ___ was encouraged to participate in the various groups and 
milieu therapy opportunities offered by the unit.  The 
occupational therapy and social work groups focus on teaching 
patients various coping skills. Mr. ___ often attended these 
groups.  Mr. ___ was isolative, remained in his room or in the 
day room on the computer working on his website. He remained at 
the periphery of the milieu and requiring prompting to attend to 
his ADLs. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Mr. ___ gave verbal and written permission for the team to 
contact his outpatient psychiatrist, Dr. ___, and 
outpatient therapist, Dr. ___.  Both were provided with 
a summary of Mr. ___ presentation to the ___ ED/Deac 4 and an 
update of his progress since admission on ___ 4, and they 
provided collateral information and treatment recommendations. 
___ also gave verbal and written permission for the team to 
contact his family. His brother-in-law visited several times, 
receiving psycho-education regarding Mr. ___ presentation and 
treatment modalities as well as further discussions regarding 
aftercare planning. Also contacted ___ father who lives in 
___ - care discussed. 

6. INFORMED CONSENT: 

Medication: Risperidone (Risperdal)
---Intended effects/Benefits: treatment of thought disorder
---Adverse effects/Risks: metabolic syndrome, drowsiness, 
akathisia, EPS, tremor, tardive dyskinesia, QTc prolongation
Mr. ___ was informed of alternative treatments, the consequences 
of no treatment, and the expected duration of treatment. He 
appeared to appreciate the information conveyed in the consent 
process by asking appropriate questions, which were answered by 
the treatment team, and expressing understanding of the 
potential risks and benefits (see above).  Prior to starting 
treatment, the team also discussed the ___ right to decide 
whether to take this medication as well as the importance of the 
___ actively participating in the treatment.  Mr. ___ 
understood the above and consented to begin the medication.

7. RISK ASSESSMENT
On presentation, Mr. ___ was evaluated and felt to be at an 
increased risk of harm to himself. Mr. ___ static risk factors 
noted at that time include history of suicide attempts, 
lethality of prior attempts, chronic mental illness, history of
abuse/trauma, family history of mental illness disorder, male 
gender, adolescent age, single relationship status and limited 
social supports.  The modifiable risk factors identified were as 
such: suicidal ideation with plan, psychosis, disorganized and 
unpredictable behavior,  impulsivity, medication noncompliance, 
poorly controlled mental illness, lack of engagement with 
outpatient treatment, social withdrawal, poor reality testing, 
hopelessness, insomnia, lack of purpose, feeling trapped, 
decreased self-esteem, thought constriction, polarized
thinking, psychic pain/turmoil and limited coping skills.  These 
modifiable risk factors were addressed with acute stabilization 
in a safe environment on a locked inpatient unit, 
psychopharmacologic adjustments, psychotherapeutic interventions 
(OT groups, SW groups, individual therapy meetings with 
psychiatrists), and presence on a social milieu environment.  
Mr. ___ is being discharged with many protective factors, 
including include help-seeking behavior, future-oriented 
viewpoint, no chronic substance use and no access to lethal 
weapons. Overall, based on the totality of our assessment at 
this time, Mr. ___ is not at an acutely elevated risk of harm to 
self nor danger to others. 

Our prognosis of this ___ is, guarded. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This ___ is not taking any preadmission medications

 
Discharge Medications:
1.  FLUoxetine 20 mg PO DAILY 
RX *fluoxetine 20 mg 1 tablet(s) by mouth Every Day Disp #*90 
Tablet Refills:*0 
2.  RisperiDONE 1 mg PO QHS 
RX *risperidone [Risperdal] 0.5 mg 2 tablet(s) by mouth Every 
Evening Disp #*90 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
major depressive disorder with psychotic features vs primary 
psychotic disorder
post traumatic stress disorder
autism spectrum disorder traits
  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___